Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
Progressive left knee pain with activity
 
Major Surgical or Invasive Procedure:
Left total knee replacement

 
History of Present Illness:
___ year old female with a history of osteoarthritis and left 
knee pain presents for definitive treatment.
 
Past Medical History:
# HTN  
# Atypical chest tightness - nml P-MIBI in ___  
# OA  
# Hypothyroidism  
# Right TKR  
# ?restrictive lung disease (no PFTs, on albuterol)  
# Acute cholecystitis  
# Chronic pain (hands/back/knees)  
# Lumbar spondylosis and spinal canal stenosis  
# Synovitis  
# Possible SLE  
# Elevated LFT's - no hepatitis, hemochromatosis, ___ negative 
but ___ positive, diffuse fatty infiltration on US (likely ___) 
 
 
Social History:
___
Family History:
___
 
Physical Exam:
On discharge: 
Afebrile, All vital signs stable
General: Alert and oriented, No acute distress
Extremities: left lower
Weight bearing: partial weight bearing
Incision: intact, no swelling/erythema/drainage
Dressing: clean/dry/intact
  Extensor/flexor hallicus longus intact
  Sensation intact to light touch
  Neurovascular intact distally
  Capillary refill brisk
  2+ pulses 

 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for an elective 
left total knee replacement. Pre-operatively, she was consented, 
prepped, and brought to the operating room. Intra-operatively, 
she was closely monitored and remained hemodynamically stable. 
She tolerated the procedure well without any complication. 
Post-operatively, she was transferred to the PACU and floor for 
further recovery. On the floor,she remained hemodynamically 
stable with her pain was controlled. She progressed with 
physical therapy to improve her strength and mobility. She was 
discharged in stable condition. 

 
Medications on Admission:
Advair
Albuterol
Elavil
Norvasc
Aspirin
Ditropan
Flonase
HCTZ
Synthroid
Claritin
Metformin
MVI
Plaquenil
Pravachol
Diovan
 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4-6H () as 
needed.
Disp:*75 Tablet(s)* Refills:*0*
2. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily) for 3 weeks.
Disp:*21 * Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
5. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
6. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Metformin 500 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
9. Valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
10. Pravastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Hydroxychloroquine 200 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
12. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
13. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q6H (every 6 hours) as needed.  
14. Amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
15. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
16. PHYSICAL THERAPY  Sig: One (1)   2 times per week: LEFT TKA
ROM
modalities prn.
Disp:*1 * Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Osteoarthritis

 
Discharge Condition:
Stable

 
Discharge Instructions:
If you experience any shortness of breath, new redness, 
increased swelling, pain, or drainage, or have a temperature 
>101, please call your doctor or go to the emergency room for 
evaluation. 
You may bear weight on your left leg.  Please use your crutches 
for ambulation.
Please resume all of the medications you took prior to your 
hospital admission. Take all medication as prescribed by your 
doctor. 
You have been prescribed a narcotic pain medication. Please do 
not drive or operate any machinery while taking this medication.
Continue your Lovenox injections as prescribed to help prevent 
blood clots. 
Feel free to call our office with any questions or concerns. 
Physical Therapy:
Activity:  Activity as tolerated
 Left lower extremity:  Partial weight bearing
 Knee immobilizer:  when not in CPM and at bedtime
___: ROM. ,modalities prn

Treatments Frequency:
Keep your incision/dressing clean and dry. Apply a dry sterile 
dressing daily as needed for drainage or comfort. Keep your knee 
dry for 5 days after your surgery. 
Your skin staples may be removed 2 weeks after your surgery or 
at the time of your follow up visit. 

 
Followup Instructions:
___